US04528382
Sodium 5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrole-2-acetate Dihydrate (McN-2783-21-98)
Methyl 5-[(4-chlorophenyl)(methylimino)methyl]-1,4-dimethyl-1H-pyrrole-2-acetate perchlorate (1.5 g, 3.6 mmole) was dissolved in chloroform, extracted with saturated aqueous sodium bicarbonate, dried over sodium sulfate, and concentrated. The residue was treated with dimethyl sulfate (0.5 g, 3.9 mmole) and allowed to stand at 18°-30° C. for two hours. The reaction was dissolved in methanol (10 ml) and treated with saturated aqueous sodium bicarbonate (5 ml) and water (2 ml). The solution was heated at reflux overnight, then allowed to cool to room temperature. The solid was isolated by filtration, washed with water, and air dried to yield 0.95 g (76%) of the title compound as a light tan solid, m.p. >230° C.

reactant | Methyl 5-[(4-chlorophenyl)(methylimino)methyl]-1,4-dimethyl-1H-pyrrole-2-acetate perchlorate | 3.6 mmole, 1.5 g | Cl(=O)(=O)(=O)O.ClC1=CC=C(C=C1)C(C1=C(C=C(N1C)CC(=O)OC)C)=NC
reactant | dimethyl sulfate | 3.9 mmole, 0.5 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
reactant | water | 2 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 ml | CO | CH4O
product | Sodium 5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrole-2-acetate Dihydrate | 0.95 g, 76% | O.O.ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)[O-])C)C=C1.[Na+] | InChI=1S/C15H14ClNO3.Na.2H2O/c1-9-7-12(8-13(18)19)17(2)14(9)15(20)10-3-5-11(16)6-4-10;;;/h3-7H,8H2,1-2H3,(H,18,19);;2*1H2/q;+1;;/p-1
